US07659271B2
By using ethyl trans-[4-({[2-(formyl)-4-(trifluoromethyl)phenyl](ethyl)amino}methyl)cyclohexyl]acetate instead of 2-[(cyclopentylmethyl)(ethyl)amino]-5-(trifluoromethyl)benzaldehyde, the reaction with 5-[2-(methylthio)ethoxy]pyrimidin-2-amine and treatments were performed in the same manner as those of Step 4 of Example 1 to obtain ethyl trans-{4-[({2-[({5-[2-(methylthio)ethoxy]pyrimidin-2-yl}amino)methyl]-4-(trifluoromethyl)phenyl}(ethyl)amino)methyl]cyclohexyl}acetate as a pale yellow oil.

reactant | ethyl trans-[4-({[2-(formyl)-4-(trifluoromethyl)phenyl](ethyl)amino}methyl)cyclohexyl]acetate | C(=O)C1=C(C=CC(=C1)C(F)(F)F)N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC | C21H28F3NO3
reactant | 5-[2-(methylthio)ethoxy]pyrimidin-2-amine | CSCCOC=1C=NC(=NC1)N | C7H11N3OS
product | ethyl trans-{4-[({2-[({5-[2-(methylthio)ethoxy]pyrimidin-2-yl}amino)methyl]-4-(trifluoromethyl)phenyl}(ethyl)amino)methyl]cyclohexyl}acetate | CSCCOC=1C=NC(=NC1)NCC1=C(C=CC(=C1)C(F)(F)F)N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC | C28H39F3N4O3S
